US06930120B2
3-(4-Benzyloxy-phenyl)-2-(4-tert-butyl-phenoxy)-3-hydroxy-2-methylpropionic acid ethyl ester (3.46 g, 7.5 mmol) in anhydrous CH2Cl2 (50 mL) was cooled to 0° C. and treated with pyridine (6.0 mL, 75 mmol, d=0.978). Trifluoroacetic anhydride (2.11 mL, 15 mmol, d=1.487) was added dropwise and the mixture was stirred for 1 h, gradually warming to ambient temperature. The solution was washed twice with 1N HCl and the organic layer dried over Na2SO4 and concentrated in vacuo to produce 3-(4-benzyloxyphenyl)-2-(4-tert-butyl-phenoxy)-3-trifluoroacetoxy-2-methylpropionic acid ethyl ester which was used without characterization.

reactant | 3-(4-Benzyloxy-phenyl)-2-(4-tert-butyl-phenoxy)-3-hydroxy-2-methylpropionic acid ethyl ester | 7.5 mmol, 3.46 g | C(C)OC(C(C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OC1=CC=C(C=C1)C(C)(C)C)=O | C29H34O5
reactant | pyridine | 75 mmol, 6.0 mL | N1=CC=CC=C1 | C5H5N
reactant | Trifluoroacetic anhydride | 15 mmol, 2.11 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-benzyloxyphenyl)-2-(4-tert-butyl-phenoxy)-3-trifluoroacetoxy-2-methylpropionic acid ethyl ester | C(C)OC(C(C(OC(C(F)(F)F)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OC1=CC=C(C=C1)C(C)(C)C)=O | C31H33F3O6
